US07868047B2
Experiment 23. 1-(3,5-Dimethoxy-4-1-propylphenyl)-2-(4-fluorophenyl)ethene (29B)
This material was prepared from diethyl(3,5-dimethoxy-4-1-propylbenzyl) phosphonate and 4-fluorobenzaldehyde in the same procedure as described in Example 21.

reactant | diethyl(3,5-dimethoxy-4-1-propylbenzyl) phosphonate | P(OC(C1=CC(=C(C(=C1)OC)CCC)OC)(CC)CC)([O-])=O
reactant | 4-fluorobenzaldehyde | FC1=CC=C(C=O)C=C1 | C7H5FO
product | 1-(3,5-Dimethoxy-4-1-propylphenyl)-2-(4-fluorophenyl)ethene | COC=1C=C(C=C(C1CCC)OC)C=CC1=CC=C(C=C1)F | C19H21FO2
